$special variables
* Netlist tests XDM recognizes special variables 
* in source & target languages, and makes the
* appropriate translation if possible or comments
* out the line if not. Only the HSPICE special
* variable "temper" can be translated, into "temp"
* in Xyce. Expressions using "hertz" will
* have warnings and be commented out.
* A parameter name or "vt" or an expression
* that uses a parameter "vt" in HSPICE will 
* have warnings and be commented out.

.param ktq = '1.38e-23*temper/1.602e-19'
.param fs(x) = 'x*2*pi*hertz'
.param vt = '3'
.param usesvt1 = '2'
.param usesvt2 = '2*vt'

va 1 0 dc=0.8 ac=1
r1 1 2 'temper'
c1 2 0 1n

.ac dec 2 1000 100000
.print ac cap=par('-ii(va)/(2*3.14*hertz)')
.print ac temperature=par('temper')
.print ac ktq_out=par('ktq')
